US06069156
1-Hydroxybenzotriazole (68 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (72 mg) were added to a solution of 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylic acid (100 mg) in dimethylformamide (3 ml), and the mixture was stirred at 20° C. overnight, then hydroxylamine hydrochloride (35 mg) and diisopropylethylamine (0.088 ml) were added. After stirred at 20° C. for 2 hours, the reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with 1N hydrochloric acid and brine, dried over sodium sulfate, and evaporated in vacuo. The residue was purified by preparative thin layer chromatography with 10% methanol in chloroform and recrystallization from ethyl acetate to give 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carbohydroxamic acid (67 mg) as pale red crystals.

reactant | 1-Hydroxybenzotriazole | 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 72 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylic acid | 100 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)O)C(C(C)C)=O)CCC)C=CC=C1 | C23H24ClNO3
reactant | hydroxylamine hydrochloride | 35 mg | Cl.NO
reactant | diisopropylethylamine | 0.088 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carbohydroxamic acid | 67 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)NO)C(C(C)C)=O)CCC)C=CC=C1 | C23H25ClN2O3
